US04453018
To a three-necked 100 ml flask equipped for reflux and fitted with a mechanical stirrer was added 10 ml of dimethylformamide, 1.0 g (0.0072 mol) of protocatechualdehyde 1.0 g (0.007 mol) of potassium carbonate, and 4.0 ml (0.047 mol) of dimethyl sulfite. The mixture was heated for four hours to 100° C. then quenched hot with 200 ml of water. The organic material was extracted into methylene chloride and the extracts were washed with 15 ml of 12% caustic solution, twice with 25 ml of water and then concentrated in vacuo to obtain 0.4 g of crude veratraldehyde.

reactant | protocatechualdehyde | 0.0072 mol, 1.0 g | C(C1=CC(O)=C(O)C=C1)=O | C7H6O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfite | 0.047 mol, 4.0 ml | S(=O)(OC)OC | C2H6O3S
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | veratraldehyde | 0.4 g | C(C1=CC(OC)=C(OC)C=C1)=O | C9H10O3
